US05073550
307 mg of 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol were reacted with 575 mg of (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyrimidin-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid in an analogous manner to the procedure described in Examples 11 or 7. There was obtained (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyrimidin-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a white powder.

reactant | 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol | 307 mg | NOCS(=O)(=O)C=1C=C(C(O)=CC1)O | C7H9NO5S
reactant | (6R,7R)-7-(2-amino-4-thiazoleglyoxylamido)-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyrimidin-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 575 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=2N(C(=C1)C)N=CC2C(=O)O)=O | C21H17N7O7S3
product | (6R,7R)-7-[(Z)-2-(2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[(3-carboxy-7-methylpyrazolo[1,5-a]pyrimidin-5-yl)thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=NC=2N(C(=C1)C)N=CC2C(=O)O)=N/OCS(=O)(=O)C2=CC(=C(C=C2)O)O | C28H24N8O11S4
